US06586369B1
b) 1-Anilino-3-chloro-4-phenylpyrrol-2,5-dione
4.14 g (20 mmol) of 3-chloro-4-phenylfuran-2,5-dione were initially charged in 50 ml of chloroform and, at room temperature, admixed dropwise with stirring with 2.16 g (20 mmol) of phenyl hydrazine, and the mixture was stirred at room temperature overnight. The mixture was filtered, washed three times with sodium bicarbonate solution and once with water, dried over sodium sulfate and concentrated under reduced pressure. Yield: 5.4 g of a crystalline solid, m.p. 144-146° C.

reactant | 3-chloro-4-phenylfuran-2,5-dione | 20 mmol, 4.14 g | ClC=1C(OC(C1C1=CC=CC=C1)=O)=O | C10H5ClO3
reactant | phenyl hydrazine | 20 mmol, 2.16 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Anilino-3-chloro-4-phenylpyrrol-2,5-dione | N(C1=CC=CC=C1)N1C(C(=C(C1=O)C1=CC=CC=C1)Cl)=O | C16H11ClN2O2
